US06962933B1
2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone
A solution of diisopropylamine (44 mL, 0.31 mol) in anhydrous tetrahydrofuran (300 mL) was cooled to −78° C. under an argon atmosphere, and 1.6 M n-butyllithium/hexane solution (190 mL, 0.31 mol) was added dropwise with stirring. After completion of the dropwise addition, the mixture was stirred for 10 min, and a solution of 2-fluoro-4-methylpyridine (34.5 g, 0.31 mol) in anhydrous tetrahydrofuran (30 mL) was added. The reaction mixture was stirred at −10° C. for 30 min. The reaction solution was cooled to −78° C. and a solution of N-(3-methylbenzoyl)propyleneimine (52 g, 0.30 mol) in anhydrous tetrahydrofuran (30 mL) was added dropwise. After completion of dropwise addition, the mixture was stirred at room temperature for 2 h. To the reaction mixture was added water (100 mL), and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and the solvent was evaporated. The residue was recrystallized from isopropyl ether to give the title compound (35 g, yield 52%).

reactant | diisopropylamine | 0.31 mol, 44 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 0.31 mol, 1.6 M, 190 mL | C(CCC)[Li].CCCCCC
reactant | 2-fluoro-4-methylpyridine | 0.31 mol, 34.5 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone | 35 g, yield 52% | FC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C14H12FNO
